US06297267B1
A mixture of (R)-2-(4,5-diphenyloxazol-2-yl)-1-trimethylsilyloxy-1-[3-(tertbutyldiphenylsiloxy)benzyl]-2-cyclohexene (24 g) and 10% Pd/C (10 g) in a mixture of MeOH (200 ml) and EtOAc (500 ml) was stirred under H2 for 8 hours. The catalyst was filtered off and the filtrate was evaporated in vacuo. The residue was purified by chromatography on silica gel to give (1R, 2S)-2-(4,5-diphenyloxazol-2-yl)-1-trimethylsilyoxy-1-[3-(tertbutyldiphenylsiloxy)benzyl]cyclohexane (21 g).

reactant | (R)-2-(4,5-diphenyloxazol-2-yl)-1-trimethylsilyloxy-1-[3-(tertbutyldiphenylsiloxy)benzyl]-2-cyclohexene | 24 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1[C@@](CCCC1)(CC1=CC(=CC=C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)O[Si](C)(C)C | C47H51NO3Si2
solvent | MeOH | 200 ml | CO | CH4O
solvent | EtOAc | 500 ml | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 10 g | [Pd] | Pd
product | (1R, 2S)-2-(4,5-diphenyloxazol-2-yl)-1-trimethylsilyoxy-1-[3-(tertbutyldiphenylsiloxy)benzyl]cyclohexane | 21 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)[C@@H]1[C@@](CCCC1)(CC1=CC(=CC=C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)O[Si](C)(C)C | C47H53NO3Si2
